US07547691B2
(A). Preparation of benzo[b]thiophen-6-ylamine
A mixture of 6-bromobenzo[b]thiophene (16.0 g, 76.0 mmol), benzophenone imine (16.6 g, 91.5 mmol), tris(dibenzylidineacetone)palladium(0) (0.72 g, 0.80 mmol), 1,1′-bis(diphenylphosphino)ferrocene (1.3 g, 2.3 mmol) and sodium tert-butoxide (10.8 g, 112 mmol) in toluene is refluxed for 20 hours. The solvent is evaporated and the residue is chromatographed on silica, eluting with dichloromethane) to give the title compound (1.52 g, 11% yield).

reactant | 6-bromobenzo[b]thiophene | 76.0 mmol, 16.0 g | BrC=1C=CC2=C(SC=C2)C1 | C8H5BrS
reactant | benzophenone imine | 91.5 mmol, 16.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium tert-butoxide | 112 mmol, 10.8 g | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 2.3 mmol, 1.3 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | benzo[b]thiophen-6-ylamine | 1.52 g, 11% yield | S1C2=C(C=C1)C=CC(=C2)N | C8H7NS
